US06107297
i) 2-[[2-aminoacetyl]amino]-4-thiazoleacetic acid, ethyl ester
A mixture of N-(tert-butoxycarbonyl)glycine (3.1 g), 2-amino-4-thiazoleacetic acid ethyl ester (3 g) and bromo-tris(pyrrolidino)-phosphonium hexafluorophosphate (7.54 g) in dimethylformamide (20 ml) was treated with N,N-diisopropylethylamine (6 ml). After 25 minutes N,N-dimethyl-4-aminopyridine (1.96 g) was added. After 24 hours the mixture was partitioned between ethyl acetate and brine. The organic phase was washed with saturated aqueous sodium bicarbonate, brine, IN HCl and brine, dried (MgSO4) and evaporated. The residue was purified by chromatography eluting with 50% ethyl acetate in isohexane. The product (0.77 g) was dissolved in dichloromethane (25 ml) and trifluoroacetic acid (10 ml). After 2 hours the mixture was evaporated. The residue was partitioned between ethyl acetate and sodium bicarbonate solution. The aqueous phase was repeatedly extracted with ethyl acetate. The combined extracts were dried (MgSO4) and evaporated. Yield 0.41 g.

reactant | N-(tert-butoxycarbonyl)glycine | 3.1 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 2-amino-4-thiazoleacetic acid ethyl ester | 3 g | C(C)OC(CC=1N=C(SC1)N)=O | C7H10N2O2S
reactant | bromo-tris(pyrrolidino)-phosphonium hexafluorophosphate | 7.54 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | N,N-diisopropylethylamine | 6 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | N,N-dimethyl-4-aminopyridine | 1.96 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 2-[[2-aminoacetyl]amino]-4-thiazoleacetic acid, ethyl ester | NCC(=O)NC=1SC=C(N1)CC(=O)OCC | C9H13N3O3S
